US08053431B2
To 3-amino-4-(2-chloroethylamino)-benzoic acid methyl ester (11.0 g, 0.0482 mol) was added HCO2H (30 mL) and heated at 100° C. for 1 h. The reaction was cooled to ambient temperature and diluted with ice water (100 mL). The pH of the reaction mixture was adjusted to 7 with NaHCO3 and the solid precipitated was filtered, washed with water and dried under vacuum to get a pale green solid (9.9 g, 86%) of 1-(2-chloroethyl)-1H-benzimidazole-5-carboxylic acid methyl ester. MS-ESI m/z 239 (M+1).

reactant | 3-amino-4-(2-chloroethylamino)-benzoic acid methyl ester | 0.0482 mol, 11.0 g | COC(C1=CC(=C(C=C1)NCCCl)N)=O | C10H13ClN2O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | HCO2H | 30 mL | C(=O)O | CH2O2
product | 1-(2-chloroethyl)-1H-benzimidazole-5-carboxylic acid methyl ester | 9.9 g, 86% | COC(=O)C1=CC2=C(N(C=N2)CCCl)C=C1 | C11H11ClN2O2
